US09382231B2
Step 5: 5-{3-(Cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide
A mixture of 5-chloro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide (254 mg, 1.00 mmol), {3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile HCl salt (325 mg, 1.00 mmol) and N,N-diisopropylethylamine (401 μL, 2.30 mmol) in 1,4-dioxane (5.0 mL) was heated at 100° C. for 2 h. After cooling, the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column eluting with ethyl acetate in hexane (gradient: 20-80%) to afford the desired product (0.49 g, 97%). LCMS cacld. for C22H28BF3N7O3 (M+1)+: m/z=506.2. Found: 506.1.

reactant | 5-chloro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide | 1.00 mmol, 254 mg | ClC=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C | C8H7ClF3N3O
reactant | {3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile HCl salt | 1.00 mmol, 325 mg | Cl.CC1(OB(OC1(C)C)C=1C=NN(C1)C1(CNC1)CC#N)C
reactant | N,N-diisopropylethylamine | 2.30 mmol, 401 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 5-{3-(Cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl]pyrazine-2-carboxamide | 0.49 g, 97% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C22H27BF3N7O3
